US07250518B2
2-(Benzo[2,1,3]oxadiazol-5-yloxy)-nicotinic acid of Formula (6.0.45):
A solution of 2-(benzo[2,1,3]oxadiazol-5-yloxy)-nicotinic acid ethyl ester (2.2 g) in tetrahydrofuran (75 mL) was treated with 1M aqueous lithium hydroxide (23.1 mL) at ambient temperature for 16 h. The solution was concentrated in vacuo to remove the tetrahydrofuran, and then acidified with 1N hydrochloric acid. The resulting precipitate was filtered and dried to give the title compound (1.90 g).

reactant | 2-(benzo[2,1,3]oxadiazol-5-yloxy)-nicotinic acid ethyl ester | 2.2 g | C(C)OC(C1=C(N=CC=C1)OC1=CC=2C(=NON2)C=C1)=O | C14H11N3O4
reactant | lithium hydroxide | 1M, 23.1 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 2-(Benzo[2,1,3]oxadiazol-5-yloxy)-nicotinic acid | 1.90 g | N=1ON=C2C1C=CC(=C2)OC2=C(C(=O)O)C=CC=N2 | C12H7N3O4
